US06867204B2
In another variation of the above procedure, 8-bromo-6-methyl-3,4-dihydro-2H-benzo[1,4]oxazine was replaced with 4-bromo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocycloheptene (obtained by reduction of 4-bromo-6,7-dihydro-9H-5-oxa-9-aza-benzocyclohepten-8-one, which in turn was prepared by reaction of 2-amino-6-bromophenol with 3-chloropropionyl chloride as described by Combs et al.; J. Med. Chem.; 33; 380-386 1990). Reaction of 4-bromo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocycloheptene with benzenesulfonyl chloride yielded 9-benzenesulfonyl-4-bromo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocycloheptene as a white solid, MS: M+=336. Method A: Synthesis of 4-(4-chloro-benzenesulfonyl)-6-methyl-8-piperazin-1-yl-3,4-dihydro-2H-benzo[1,4]oxazine

reactant | 8-bromo-6-methyl-3,4-dihydro-2H-benzo[1,4]oxazine | BrC1=CC(=CC=2NCCOC21)C | C9H10BrNO
reactant | 4-bromo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocycloheptene | BrC1=CC=CC=2NCCCOC21 | C9H10BrNO
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | 9-benzenesulfonyl-4-bromo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocycloheptene | C1(=CC=CC=C1)S(=O)(=O)N1CCCOC2=C1C=CC=C2Br | C15H14BrNO3S
